US09120785B2
To a flask containing methyl trans-4-[1-(5-{6-[(4-cyclopropylpyridin-2-yl)amino]-4-methylpyridin-2-yl}-1,3-thiazol-2-yl)-1-hydroxypropyl]-cyclohexanecarboxylate (198 mg, 0.391 mmol) and potassium hydroxide (88 mg, 1.563 mmol) was added methanol (1 mL) and water (1 mL). The reaction vessel was sealed and heated to 80° C. for a period of 14 hours. After cooling the reaction, aqueous hydrochloric acid (1.0 M, 1.56 mL, 1.56 mmol) was added. The cloudy solution was diluted with additional water (10 mL) and stirring was continued for one hour. Chloroform and isopropanol (4:1; 20 mL total) were added and the biphasic mixture was transferred to a separatory funnel. The organic phase was separated, dried over sodium sulfate, filtered and concentrated under reduced pressure to yield trans-4-[1-(5-{6-[(4-cyclopropylpyridin-2-yl)amino]-4-methylpyridin-2-yl}-1,3-thiazol-2-yl)-1-hydroxypropyl]cyclohexanecarboxylic acid. MS ESI calc'd. for C27H33N4O3S [M+H]+ 493. found 493. 1H NMR (500 MHz, DMSO-d6) δ 11.60-10.74 (br s, 1H), 8.48 (s, 1H), 8.27 (s, 1H), 7.75-7.29 (m, 2H), 7.26 (m, 2H), 5.68-5.47 (m, 1H), 2.42 (s, 3H), 2.29-2.12 (m, 1H), 2.12-1.84 (m, 7H), 1.84-1.73 (m, 1H), 1.54-1.42 (m, 1H), 1.43-1.13 (m, 6H), 1.13-0.97 (m, 3H), 0.88 (t, J=7.3 Hz, 3H). rhSyk activity=+++.

reactant | methyl trans-4-[1-(5-{6-[(4-cyclopropylpyridin-2-yl)amino]-4-methylpyridin-2-yl}-1,3-thiazol-2-yl)-1-hydroxypropyl]-cyclohexanecarboxylate | 0.391 mmol, 198 mg | C1(CC1)C1=CC(=NC=C1)NC1=CC(=CC(=N1)C1=CN=C(S1)C(CC)(O)[C@@H]1CC[C@H](CC1)C(=O)OC)C | C28H34N4O3S
reactant | potassium hydroxide | 1.563 mmol, 88 mg | [OH-].[K+]
reactant | methanol | 1 mL | CO | CH4O
reactant | hydrochloric acid | 1.56 mmol, 1.0 M, 1.56 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | water | 1 mL | O | H2O
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | trans-4-[1-(5-{6-[(4-cyclopropylpyridin-2-yl)amino]-4-methylpyridin-2-yl}-1,3-thiazol-2-yl)-1-hydroxypropyl]cyclohexanecarboxylic acid | C1(CC1)C1=CC(=NC=C1)NC1=CC(=CC(=N1)C1=CN=C(S1)C(CC)(O)[C@@H]1CC[C@H](CC1)C(=O)O)C | C27H32N4O3S
